US04471116
Preparation of 3-[[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-1-piperazinyl]ethoxy]phenyl]oxy]propanamine trihydrochloride
To 500 ml of ethanol containing 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-[2-[4-(3-phthalimidopropyloxy)phenoxy]ethyl]piperazine (10.5 g) was added 85% hydrazine hydrate (2.95 g). The solution was stirred and refluxed for 24 hours. The insoluble phthalazinedione was then removed by filtration and the filtrate concentrated in vacuo. Water (200 ml) and concentrated ammonium hydroxide (50 ml) was added to the residue. The oil was extracted with dichloromethane and the solution dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue dissolved in ethyl acetate. Hydrogen chloride was bubbled into the solution to precipitate the product as its trihydrochloride salt which was recovered by filtration and crystallized from acetonitrile-methanol. The yield of 3-[[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-1-piperazinyl]ethoxy]phenyl]oxy]propanamine trihydrochloride, mp 237°-240°, was 6.0 g.

reactant | 1-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-4-[2-[4-(3-phthalimidopropyloxy)phenoxy]ethyl]piperazine | 10.5 g | ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCOC1=CC=C(C=C1)OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C38H39ClN4O4S
reactant | hydrazine hydrate | 2.95 g | O.NN
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-[[4-[2-[4-[3-(2-chloro-10H-phenothiazin-10-yl)propyl]-1-piperazinyl]ethoxy]phenyl]oxy]propanamine trihydrochloride | Cl.Cl.Cl.ClC1=CC=2N(C3=CC=CC=C3SC2C=C1)CCCN1CCN(CC1)CCOC1=CC=C(C=C1)OCCCN | InChI=1S/C30H37ClN4O2S.3ClH/c31-24-7-12-30-28(23-24)35(27-5-1-2-6-29(27)38-30)15-4-14-33-16-18-34(19-17-33)20-22-37-26-10-8-25(9-11-26)36-21-3-13-32;;;/h1-2,5-12,23H,3-4,13-22,32H2;3*1H
